US06498170B2
Benzyl-[1-(4-butoxy-benzenesulfonyl)-azetidin-3-yl]-amine
To a solution of 4-Butoxy-benzenesulfonic acid 1-(4-butoxy-benzenesulfonyl)-azetidin-3-yl ester (0.99 g, 2 mmol) in tetrahydrofuran (4 ml) was added benzylamine (0.86 g, 8 mmol) and the mixture was stirred at 100° C. for 5 days. It was then washed with hexanes, and the residue was extracted with ether. The ether solution was evaporated, and the residue was chromatographed (silica gel, ethyl acetate-hexanes/1:1)to give 0.40 g of an amber gum; MS (ES) m/z 375.0 (MH+); HRMS (ES) Calcd. for C20H27N2O3S (MH+): 375.1742, Found: 375.1743.

reactant | 4-Butoxy-benzenesulfonic acid 1-(4-butoxy-benzenesulfonyl)-azetidin-3-yl ester | 2 mmol, 0.99 g | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)N1CC(C1)OS(=O)(=O)C1=CC=C(C=C1)OCCCC | C23H31NO7S2
reactant | benzylamine | 8 mmol, 0.86 g | C(C1=CC=CC=C1)N | C7H9N
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | Benzyl-[1-(4-butoxy-benzenesulfonyl)-azetidin-3-yl]-amine | 0.40 g | C(C1=CC=CC=C1)NC1CN(C1)S(=O)(=O)C1=CC=C(C=C1)OCCCC | C20H26N2O3S
